US09382188B2
L) 1-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)-2-(3-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)phenyl)ethanol
Under a nitrogen atmosphere, 1,2-dibromoethane (34 μL) was added to a mixture of magnesium (578 mg) and THF (15 mL) at room temperature, and the mixture was stirred at 50° C. for 10 min. To the reaction mixture were added 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpicolinealdehyde (2.39 g) and then 2-((3-(bromomethyl)benzyl)oxy)tetrahydro-2H-pyran (4.52 g) was added, and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added saturated aqueous ammonium chloride solution at 0° C., and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (980 mg) as an orange oil.

reactant | 1,2-dibromoethane | 34 μL | BrCCBr | C2H4Br2
reactant | magnesium | 578 mg | [Mg] | Mg
reactant | 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpicolinealdehyde | 2.39 g | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)C=O | C18H20FNO2
reactant | 2-((3-(bromomethyl)benzyl)oxy)tetrahydro-2H-pyran | 4.52 g | BrCC=1C=C(COC2OCCCC2)C=CC1 | C13H17BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)-2-(3-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)phenyl)ethanol | 980 mg | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)C(CC1=CC(=CC=C1)COC1OCCCC1)O | C31H38FNO4
